US06083961
To a solution of 2-acetamido-5-bromo-3-methylpyridine (110 mg) and tri-n-butylamine (196 mg) in xylene were added palladium(II) acetate (1 mg) and triphenylphosphine (1 mg) under nitrogen atmosphere, and the mixture was heated at 150° C. Acrylic acid (41.5 mg) was added thereto, and the mixture was stirred for 7 hours at the same temperature. After cooling to ambient temperature, ethyl acetate and saturated sodium bicarbonate solution were added to the reaction mixture, and separated aqueous layer was adjusted to pH 4 with 4N hydrochloric acid. The mixture was extracted with chloroform. The extract was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was collected by filtration and washed with diisopropyl ether to give (E)-3-(6-acetamido-5-methylpyridin-3-yl)acrylic acid (89 mg).

reactant | 2-acetamido-5-bromo-3-methylpyridine | 110 mg | C(C)(=O)NC1=NC=C(C=C1C)Br | C8H9BrN2O
reactant | tri-n-butylamine | 196 mg | C(CCC)N(CCCC)CCCC | C12H27N
reactant | Acrylic acid | 41.5 mg | C(C=C)(=O)O | C3H4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
catalyst | palladium(II) acetate | 1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 1 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-3-(6-acetamido-5-methylpyridin-3-yl)acrylic acid | 89 mg | C(C)(=O)NC1=C(C=C(C=N1)/C=C/C(=O)O)C | C11H12N2O3
